US08017792B2
Synthesis of 1-bromo-4-chloro-3-(4-ethylbenzyl)benzene
Synthesis was performed by a similar method as in Preparation Example 14 using 5-bromo-2-chlorobenzoic acid and ethylbenzene.

reactant | 5-bromo-2-chlorobenzoic acid | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | ethylbenzene | C(C)C1=CC=CC=C1 | C8H10
product | 1-bromo-4-chloro-3-(4-ethylbenzyl)benzene | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)CC | C15H14BrCl
